US07122546B2
Excess SOCl2 is added to a stirred solution of (6-chloro-4-methoxy-pyridazin-3-yl)-methanol (140 mg, 0.8 mmol) in CH2Cl2 (4 mL). The reaction mixture is stirred at room temperature for 4 hours. The solvent is removed in vacuo; toluene (4 mL) is added and evaporated to dryness. Flash column chromatography (silica gel) purification of the residue provides 6-chloro-3-chloromethyl-4-methoxy-pyridazine as a clear oil.

reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | (6-chloro-4-methoxy-pyridazin-3-yl)-methanol | 0.8 mmol, 140 mg | ClC1=CC(=C(N=N1)CO)OC | C6H7ClN2O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-3-chloromethyl-4-methoxy-pyridazine | ClC1=CC(=C(N=N1)CCl)OC | C6H6Cl2N2O
